US05077407
5-Methyl-6-azachroman
To 2.45 g (18.15 mmol) of 6-azachroman (prepared as described in Sliwa, et al., J. Het. Chem. 12:809 (1975)) in 25 ml of ethyl ether is added 61 ml of 1.5 M methyllithium-lithium bromide complex. The mixture is heated at reflux for 17 hours and worked up as described above to yield 0.800 g of the titled compound. High resolution mass spectrum: Calcd. for C9H11NO: 149.0841; Found: 149.0834.

reactant | 6-azachroman | 18.15 mmol, 2.45 g | O1CCCC2=CN=CC=C12 | C8H9NO
reactant | ethyl ether | 25 ml | C(C)OCC | C4H10O
product | 5-Methyl-6-azachroman | 0.800 g | CC1=C2CCCOC2=CC=N1 | C9H11NO
